US08119666B2
To a mixture of 2-benzyloxy-4-phenoxyphenylamine (400 mg, 1.37 mmol) and K2CO3 (284 mg, 2.05 mmol) in DMF (5 mL) is added methyl bromoacetate (231 mg, 1.51 mmol). The mixture is stirred at 60° C. for 90 min., then an additional methyl bromoacetate (50 mg) is added and the mixture is stirred at 60° C. for 1 h. The mixture is allowed to cool to ambient temperature, then poured into water and extracted into EtOAc. The organic phase is washed with water (3×), saturated NaCl (1×) and dried over Na2SO4. The solvent is removed under reduced pressure to afford (2-benzyloxy-4-phenoxyphenylamino)acetic acid methyl ester. This is used directly in the next step.

reactant | 2-benzyloxy-4-phenoxyphenylamine | 1.37 mmol, 400 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OC1=CC=CC=C1)N | C19H17NO2
reactant | K2CO3 | 2.05 mmol, 284 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 1.51 mmol, 231 mg | BrCC(=O)OC | C3H5BrO2
reactant | methyl bromoacetate | 50 mg | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2-benzyloxy-4-phenoxyphenylamino)acetic acid methyl ester | COC(CNC1=C(C=C(C=C1)OC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C22H21NO4
